US08008483B2
e) Preparation of 1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide
A 5 ml microwave vial was charged with palladium (II) acetate (0.38 mg, 0.0017 mmol, 0.010 equiv), tricyclohexylphosphine (0.95 mg, 0.0034 mmol, 0.020 equiv), and phenyl boronic acid (30.9 mg, 0.253 mmol, 1.50 equiv). A premixed solution of 1,4-dioxane (0.875 ml) and 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide was added, followed by a premixed solution of water (0.125 ml) and potassium phosphate tribasic (71.7 mg, 0.338 mmol, 2.00 equiv). The reaction was heated via a microwave reactor for 20 min at 150° C. The reaction was diluted with water (5 ml) and extracted three times with ethyl acetate (5 ml). The ethyl acetate extracts were combined, dried with Na2SO4, filtered, and concentrated under reduced pressure. The residue was dissolved in 1.5 ml DMSO and purified via reverse-phase HPLC purification to afford the title compound. MS (ES+): m/e 470.9 [M+H]+.

reactant | tricyclohexylphosphine | 0.0034 mmol, 0.95 mg, 0.020 equiv | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | phenyl boronic acid | 0.253 mmol, 30.9 mg, 1.50 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | ClC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C18H20ClF3N6O
reactant | potassium phosphate tribasic | 0.338 mmol, 71.7 mg, 2.00 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 5 ml | O | H2O
catalyst | palladium (II) acetate | 0.0017 mmol, 0.38 mg, 0.010 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.125 ml | O | H2O
solvent | 1,4-dioxane | 0.875 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | CNC1=NC(=NC(=N1)C1=CC=CC=C1)N1CCC(CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C24H25F3N6O
